US07259266B2
Step 1. Preparation of ethyl 8-[hydroxy(phenyl)methl]-6-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate
The ethyl 8-formyl-6-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate prepared as in Example 605a, Step 1 (0.45 g, 1.43 mmole) was dissolved in anhydrous THF (5 mL) and the solution was cooled to −78° C. (dry ice/acetone). Phenylmagnesium bromide (1.58 mL, 1.58 mmole) was added to the above solution dropwise, which was allowed to stir for 4 hours. The reaction was quenched with saturated ammonium chloride (20 mL) and extracted with EtOAc (2×20 mL). The combined extracts were washed with brine (20 mL), dried over MgSO4, filtered and concentrated in vacuo to give an orange oil. The oil was purified by flash chromatography (silica gel) with 100% CH2Cl2 to give a light yellow oil (0.3g, 54%): GCMS m/z 392.0 (M+). 1H NMR (CDCl3/400 MHz) 7.62 (s, 1H), 7.32 (m, 6H), 6.95 (s, 1H), 6.10 (s, 1H), 5.68 (q, 1H, J=7.0 Hz), 4.28 (m, 2H), 2.28 (s, 3H), 1.32 (m, 3H).

reactant | ethyl 8-formyl-6-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate | C(=O)C=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)C | C15H13F3O4
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | Phenylmagnesium bromide | 1.58 mmole, 1.58 mL | C1(=CC=CC=C1)[Mg]Br
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | ethyl 8-[hydroxy(phenyl)methl]-6-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.3g, 54% | OC(C=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)C)C1=CC=CC=C1 | C21H19F3O4
